US05643923
5-Chloro-3-(1-methyl-4-piperidyloxy)-1,2-benzisoxazole
A solution of 1.53 g (13.3 mmole) of 4-hydroxy-1-methylpiperidine in 25 ml of dimethylformamide was cooled to 5° C. in an atmosphere of nitrogen. 0.58 g (13.3 mmole) of sodium hydride (as a 55% w/w dispersion in mineral oil) was added to the solution, and then the solution was stirred at room temperature for 30 minutes. The reaction mixture was cooled to 5° C., and then 2.50 g (13.3 mmole) of 3,5-dichloro-1,2-benzisoxazole were added to it; the resulting mixture was then stirred at 5° C. for 30 minutes and then at room temperature for 1 hour. At the end of this time, the mixture was poured into 50 ml of ice-water and then extracted twice, each time with 50 ml of ethyl acetate. The ethyl acetate layer was separated and washed with 100 ml of a 10% w/v aqueous solution of sodium chloride; it was then dried over anhydrous magnesium sulfate, and the drying agent was removed by filtration. The solvent was removed from the filtrate by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel using ethyl acetate as the eluent to afford 2.38 g (yield 67.00%) of the title compound as a colorless powder, melting at 55°-56° C.

reactant | 4-hydroxy-1-methylpiperidine | 13.3 mmole, 1.53 g | OC1CCN(CC1)C | C6H13NO
reactant | sodium hydride | 13.3 mmole, 0.58 g | [H-].[Na+]
reactant | 3,5-dichloro-1,2-benzisoxazole | 13.3 mmole, 2.50 g | ClC1=NOC2=C1C=C(C=C2)Cl | C7H3Cl2NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-3-(1-methyl-4-piperidyloxy)-1,2-benzisoxazole | 2.38 g, yield 67.00% | ClC=1C=CC2=C(C(=NO2)OC2CCN(CC2)C)C1 | C13H15ClN2O2
